US09024018B2
3-(Imino(3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazin-8-yl)methylthio)-2-oxopropanoic acid
To a solution of 3-bromopyruvic acid (1.388 g; 8.3 mmol) in dry acetonitrile (20 mL) was added 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide (1.000 g; 4.8 mmol). The mixture was stirred at room temperature overnight, and then concentrated under reduced pressure. The residue was washed with DCM (3×15 mL) and diethyl ether (2×20 mL) and the pale yellow solid (1.20 g; 84%) was used without further purification.

reactant | 3-bromopyruvic acid | 8.3 mmol, 1.388 g | BrCC(C(=O)O)=O | C3H3BrO3
reactant | 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide | 4.8 mmol, 1.000 g | CN1N=NC=2N(C1=O)C=NC2C(N)=S | C6H6N6OS
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-(Imino(3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazin-8-yl)methylthio)-2-oxopropanoic acid | N=C(SCC(C(=O)O)=O)C=1N=CN2C1N=NN(C2=O)C | C9H8N6O4S
